US09371298B2
The 3-Methoxycarbonyloxy-5-methylsulfanyl-isothiazole-4-carboxylic acid methyl ester slurry was cooled to 0° C., and urea hydrogen peroxide addition compound (2.8 equiv, 12.8 g) was added. Trifluoroacetic acid anhydride (2.8 equiv, 19.2 mL, 28.4 g) was added dropwise over 20 minutes. The mixture stirred at 0° C. for 45 minutes, and quenched with sodium hydrogen sulfite (2.0 equiv, 10.0 g) in water (90 mL, 9 volumes) and stirred at 25° C. Most of the acetonitrile was removed under vacuum, then the aqueous residue was extracted once with 100 mL and once again with 50 mL dichloromethane to provide 5-Methanesulfonyl-3-methoxycarbonyloxy-isothiazole-4-carboxylic acid methyl ester.

reactant | 3-Methoxycarbonyloxy-5-methylsulfanyl-isothiazole-4-carboxylic acid methyl ester | COC(=O)C=1C(=NSC1SC)OC(=O)OC | C8H9NO5S2
reactant | urea hydrogen peroxide | OO.NC(=O)N
reactant | Trifluoroacetic acid anhydride | 19.2 mL, 28.4 g, 2.8 equiv | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium hydrogen sulfite | 10.0 g, 2.0 equiv | S(=O)(O)[O-].[Na+]
solvent | water | 90 mL | O | H2O
product | 5-Methanesulfonyl-3-methoxycarbonyloxy-isothiazole-4-carboxylic acid methyl ester | COC(=O)C=1C(=NSC1S(=O)(=O)C)OC(=O)OC | C8H9NO7S2
